* C:\users\nils\Documents\001_Studium\007_Semester7-BA\Selfe-Tuned-Filter\001_Simulation_und_Schaltungsentwurf\008_LTSpice\Experiment_05_Julian.asc
R1 N006 V_HP 993
R2 N007 V_F1 990
R3 N009 V_TP 1k
R5 V_HP N009 1k
R9 N009 V_F2 1k
R6 V_F2 N011 1k
R8 N011 V_F1 984
R7 N011 N004 990
C2 N001 N006 1µ
C1 N002 N007 1µ
VG1 N004 0 PULSE(-100m 100m 0 1n 1n 500µ 1m) AC 1 0
V_OP+ V+ 0 11
V_OP- 0 V- 11
XU1 0 N006 V+ V- V_F1 tl082
XU2 0 N007 V+ V- V_TP tl082
XU3 0 N009 V+ V- V_HP tl082
XU5 0 N011 V+ V- V_F2 tl082
XU6 V_F3 0 ve V_F1 0 vdd N001 N001 0 vss MPY634
XU7 V_F3 0 ve V_TP 0 vdd N002 N002 0 vss MPY634
XU8 V_HP 0 ve N004 0 vdd N003 N003 0 vss MPY634
VDD1 vdd 0 11
VSS1 0 vss 11
VE1 ve 0 9.74
XU4 0 N008 V+ V- N005 tl082
V3 N010 0 1
R10 V_F3 N010 1k
R11 V_F3 N005 1k
R4 N008 N003 1k
C3 N005 N008 1µ
.ac dec 1000 50 5000
.inc tl082.cir
.inc mpy634.cir
;.tran 0 1600m
*;step param R_C list 1k 25k 100k
.param C=1u Cx3=1u R=1k R_C=1k
*;dc V3 0 5 0.1
*;ac dec 50 50 1000
.lib mpy634.cir
.backanno
.end
